US04110447
24.2 g of 3-(4'-fluoro-4-biphenylyl)-1-buten-3-ol (obtainable from 4-acetyl-4'-fluorobiphenyl and vinylmagnesium bromide) are heated with 8 g of ammonia and 0.25 g of sodium for 8 hours at 180° - 200°, and the mixture is cooled and worked up with water and chloroform to give 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutylamine, m.p. 144° - 146°.

reactant | 3-(4'-fluoro-4-biphenylyl)-1-buten-3-ol | 24.2 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C=C)(C)O | C16H15FO
reactant | ammonia | 8 g | N | H3N
reactant | sodium | 0.25 g | [Na] | Na
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutylamine | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)(C)O | C16H18FNO
